US04963557
EXAMPLE 7: SYNTHESIS OF 4-DECYLCYCLOHEXANONE
A mixture of potassium carbonate (1 equivalent) and morpholine (3.3 equivalents) were cooled to -5° under an inert atmosphere and dodecanal (1 equivalent) was added dropwise over 30 minutes. The reaction mixture was allowed to warm to room temperature and stirring was continued for 3-6 hours. Addition to ether followed by filtration and concentration gave crude morpholine enamine. The residue was distilled to give the desired product; b.p. 103-108° /0.07 mm; yield 74%.

reactant | potassium carbonate | 1 equivalent | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 3.3 equivalents | N1CCOCC1 | C4H9NO
reactant | dodecanal | 1 equivalent | C(CCCCCCCCCCC)=O | C12H24O
reactant | ether | CCOCC | C4H10O
product | 4-DECYLCYCLOHEXANONE | yield 74% | C(CCCCCCCCC)C1CCC(CC1)=O | C16H30O
